US09255089B2
A mixture of 6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one (100.0 mg, 0.282 mmol) and methyl 4-chlorocinnoline-3-carboxylate (94.0 mg, 0.422 mmol) was treated with PdCl2dppf.CH2Cl2 (20.6 mg, 0.028 mmol) in the presence of 1,8-Diazabicycloundec-7-ene (DBU, 300.0 mg, 1.971 mmol, 7.0 equiv) in DMSO (1 mL) and water (1 mL). The reaction mixture was heated at 110° C. for 12 min in oil bath. The reaction mixture was purified by HPLC to give 4-(6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-4-yl)cinnoline-3-carboxylic acid.

reactant | 6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.282 mmol, 100.0 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)B1OC(C(O1)(C)C)(C)C)C | C18H22BN3O4
reactant | methyl 4-chlorocinnoline-3-carboxylate | 0.422 mmol, 94.0 mg | ClC1=C(N=NC2=CC=CC=C12)C(=O)OC | C10H7ClN2O2
reactant | CH2Cl2 | 0.028 mmol, 20.6 mg | C(Cl)Cl | CH2Cl2
reactant | 1,8-Diazabicycloundec-7-ene | 1.971 mmol, 300.0 mg, 7.0 equiv | N1(CCCCCC=NCCC1)C1CCCCCCCCCC1 | C20H38N2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | water | 1 mL | O | H2O
product | 4-(6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-4-yl)cinnoline-3-carboxylic acid | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C1=C(N=NC2=CC=CC=C12)C(=O)O)C | C21H15N5O4
